US07429565B2
6-(2-Hydroxy-ethyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one
To a solution of [6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-acetaldehyde (97 mg, 0.29 mmol) in THF (5 mL) was added an aliquot of a 2M LiBH4 in THF (150 μL, 0.300 mmol). The reaction mixture was stirred at room temperature for 1 hour when complete consumption of the starting materials was observed by TLC. The reaction mixture was worked up by addition of an aqueous 1N HCl solution and extraction with EtOAc. The organic layer was dried in vacuo and the residue was purified by silica gel chromatography to provide the product. 1H NMR (300 MHz, CDCl3) δ 0.00 (s, 9H), 1.20 (dd, 2H, J=7, 9 Hz), 2.07 (br s, 1H), 2.14 (s, 3H), 2.97 (t, 2H, J=6 Hz), 3.76 (t, 2H, J=6 Hz), 3.77 (s, 3H), 4.32 (dd, 2H, J=7, 8 Hz), 5.08 (s, 2H) ppm.

reactant | [6-methoxy-7-methyl-3-oxo-4-(2-trimethylsilanyl-ethoxy)-1,3-dihydro-isobenzofuran-5-yl]-acetaldehyde | 0.29 mmol, 97 mg | COC1=C(C(=C2C(OCC2=C1C)=O)OCC[Si](C)(C)C)CC=O | C17H24O5Si
reactant | LiBH4 | 2M | [Li+].[BH4-]
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | THF | 0.300 mmol, 150 μL | C1CCOC1 | C4H8O
product | 6-(2-Hydroxy-ethyl)-5-methoxy-4-methyl-7-(2-trimethylsilanyl-ethoxy)-3H-isobenzofuran-1-one | OCCC1=C(C(=C2COC(C2=C1OCC[Si](C)(C)C)=O)C)OC | C17H26O5Si
